US03957819
Reaction of 3-aminopropanol with 3-(m-fluorophenyl)-3-hydroxy-3H-indol-2-one in presence of toluene-p-sulphonic acid by a procedure analogous to that of Example 1 gives 3-(m-fluorophenyl)-2-(3-hydroxypropylamino)-3H-indol-3-ol.

reactant | 3-aminopropanol | NCCCO | C3H9NO
reactant | 3-(m-fluorophenyl)-3-hydroxy-3H-indol-2-one | FC=1C=C(C=CC1)C1(C(NC2=CC=CC=C12)=O)O | C14H10FNO2
reactant | toluene-p-sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-(m-fluorophenyl)-2-(3-hydroxypropylamino)-3H-indol-3-ol | FC=1C=C(C=CC1)C1(C(=NC2=CC=CC=C12)NCCCO)O | C17H17FN2O2
